US07576098B2
di-tert-butyl (6-nitroisoquinolin-1-yl)imidodicarbonate (75.00 g, 0.193 mol) in methanol/THF (500 ml/500 ml) was hydrogenated with a hydrogen balloon in the presence of Pd/C (5%, 5 g) for 2.0 h. Filtration of the Pd/C and concentration gave a solid, which was recrystallized from methanol to give 65.72 g (94.97%) of di-tert-butyl (6-aminoisoquinolin-1-yl)imidodicarbonate as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 1.33 (m, 18 H) 4.18 (s, 2 H) 6.89 (d, J=2.20 Hz, 1 H) 6.99 (dd, J=9.01, 2.42 Hz, 1 H) 7.35 (d, J=6.59 Hz, 1 H) 7.75 (d, J=8.79 Hz, 1 H) 8.22 (d, J=5.71 Hz, 1 H). LC-MS: 741 (2M+Na)+.

reactant | di-tert-butyl (6-nitroisoquinolin-1-yl)imidodicarbonate | 0.193 mol, 75.00 g | [N+](=O)([O-])C=1C=C2C=CN=C(C2=CC1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C19H23N3O6
reactant | hydrogen | [H][H] | H2
solvent | methanol THF | 500 ml | CO.C1CCOC1
catalyst | Pd/C | 5 g | [Pd] | Pd
product | di-tert-butyl (6-aminoisoquinolin-1-yl)imidodicarbonate | 65.72 g, 94.97% | NC=1C=C2C=CN=C(C2=CC1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C19H25N3O4
